US06924278B2
To a stirred solution of 1-bromo-4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzene (2.19 g) in tetrahydrofuran (30 ml) was added 1.6 M butyllithium in hexane (4.69 ml) by syringe under nitrogen atmosphere at −78° C. After 30 minutes of stirring at −78° C., N,N-dimethylformamide (1.16 ml) was added to the solution at −78° C. and then the mixture was allowed to warm to 5° C. over 1.5 hours. Saturated ammonium chloride solution (10 ml) was added to the mixture and the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give 4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzaldehyde (1.90 g) as a colorless oil.

reactant | 1-bromo-4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzene | 2.19 g | BrC1=CC(=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C24H27BrOSi
reactant | butyllithium | 1.6 M | C(CCC)[Li]
reactant | N,N-dimethylformamide | 1.16 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | 4.69 ml | CCCCCC | C6H14
product | 4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzaldehyde | 1.90 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(C=O)C=C1)C | C25H28O2Si
